US07465726B2
tert-Butyl 4-[4-(4-methoxy-3-thiophen-3-ylphenyl-amino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate
To a stirred solution of tert-butyl 4-[4-(3-iodo-4-methoxyphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate (82.1 mg, 0.15 mmol), 3-thienylboronic acid (28.8 mg, 0.225 mmol) and potassium carbonate (41.5 mg, 0.3 mmol) in dioxane/water (4:1) (1.0 mL) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II), complex with dichloromethane (1:1) (12 mg, 0.015 mmol). The resulting mixture was bubbled N2 for 5 min and then heated at reflux for 16 h. After cooled to rt, the solvents were removed under reduced pressure. The residue was dissolved in DMF (2 mL). The DMF solution was filtered and purified by HPLC to give the title compound. 1H-NMR (DMSO-d6, 400 MHz): δ=1.43 (s, 9H), 3.56 (m, 2H), 3.82 (s, 3H), 4.03 (m, 2H), 6.38 (s, br, 1H), 6.73 (s, 1H), 7.09 (d, J=9.2 Hz, 1H), 7.45 (dd, J=0.8, 5.2 Hz, 1H), 7.60 (dd, J=2.8, 4.8 Hz, 1H), 7.76 (m, 1H), 7.80 (dd, J=2.8, 8.8 Hz, 1H), 7.94 (d, J=2.8 Hz, 1H), 8.22 (s, 1H), 9.26 (s, 1H), 11.90 (s, 1H). MS (ES+): m/z 504.05 [MH+]. HPLC: tR=3.22 min (ZQ2000, polar—5 min).

reactant | tert-butyl 4-[4-(3-iodo-4-methoxyphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 0.15 mmol, 82.1 mg | IC=1C=C(C=CC1OC)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C23H26IN5O3
reactant | 3-thienylboronic acid | 0.225 mmol, 28.8 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 0.3 mmol, 41.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.015 mmol, 12 mg | ClCCl | CH2Cl2
solvent | dioxane water | 1.0 mL | O1CCOCC1.O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 4-[4-(4-methoxy-3-thiophen-3-ylphenyl-amino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | COC1=C(C=C(C=C1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)C2=CSC=C2 | C27H29N5O3S
